2156-10-28 11:07:00 Physician Resident Progress Note
Chief Complaint: intubated and sedated
   24 Hour Events:
   transferred from [**Hospital1 **] [**Location (un) 3**], received 3 L fluids, Zosyn and Diltiazem
   10 mg IV x1 with good BP and rate control.
   History obtained from Medical records
   Allergies:
   History obtained from Medical recordsShellfish Derived
   Unknown;
   Peanut
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2156-10-28**] 03:48 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2156-10-28**] 08:11 AM
   Diltiazem - [**2156-10-28**] 08:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-10-28**] 11:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 36.1
C (96.9
   HR: 94 (94 - 136) bpm
   BP: 87/59(66) {80/52(59) - 109/59(69)} mmHg
   RR: 20 (19 - 28) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
             3,636 mL
   PO:
             TF:
   IVF:
   2,636 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                  1,543 mL
   Urine:
   493 mL
   NG:
   1,050 mL
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  2,093 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (500 - 550) mL
   Vt (Spontaneous): 350 (350 - 350) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI: 36
   PIP: 18 cmH2O
   Plateau: 14 cmH2O
   Compliance: 61.1 cmH2O/mL
   SpO2: 100%
   ABG: 7.33/36/34/18/-7
   Ve: 11.1 L/min
   PaO2 / FiO2: 57
   Physical Examination
   General Appearance: Thin
   Cardiovascular: distant heart sounds
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Percussion: Resonant : )
   Abdominal: Soft, Bowel sounds present, Distended, typanitic
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   366 K/uL
   8.4 g/dL
   159 mg/dL
   1.9 mg/dL
   18 mEq/L
   4.3 mEq/L
   44 mg/dL
   113 mEq/L
   141 mEq/L
   26.5 %
   7.8 K/uL
        [image002.jpg]
                            [**2156-10-28**]  03:08 AM
                            [**2156-10-28**]  04:32 AM
   WBC
   7.8
   Hct
   26.5
   Plt
   366
   Cr
   1.9
   TCO2
   20
   Glucose
   159
   Other labs: PT / PTT / INR:25.8/41.2/2.6, ALT / AST:24/21, Alk Phos / T
   Bili:113/0.3, Differential-Neuts:78.7 %, Lymph:16.7 %, Mono:4.3 %,
   Eos:0.1 %, Lactic Acid:3.1 mmol/L, LDH:152 IU/L, Ca++:6.7 mg/dL,
   Mg++:1.9 mg/dL, PO4:4.3 mg/dL
   CXR: no infiltrate
   KUB: questionable Olglivie
s Syndrome
   Assessment and Plan
   89M with urosepsis and atrial fibrillation with RVR
   Urosepsis: Septic physiology with tachycardia, tachypneia and
   leuckocytosis, with likely urine source
   - follow up culture data
   - Continue Zosyn
   - surveillance blood cultures
   - WBCs decreasing with treatment
   -  Urine less cloudy this am.
   Respiratory Failure: intubated for impending respiratory failure.
   Patient currently on AC.  Currently on minimal sedation and will lower
   sedation further to do a RSBI and if possible a SBT.
   CV:
   CAD: Patient with known CAD, although unclear history.  NSTEMI in
   setting of afib with RVR likely secondary to demand ischemia in setting
   of tachycardia and hypovolemia. Will hold BB as patient is currently on
   CCB. Does not appear that this is ACS.  Medical management at this
   point.  Will hold ASA given pseudoobstrucition
   PUMP: Unknown EF.  BNP > [**Numeric Identifier 1804**].  [**Month (only) 8**] be increased from increased
   preload and decreased CO given irregular rhythm.  This is not
   suggestive of CHF and clinical exam is not suggestive of CHF.  Patient
   likely hypovolemic, will aggressive hydrate.  ECHO when patient's rate
   has improved to assess for WMA.
   RHYTHM: afib with RVR, currently receiving Dilt boluses, but will
   change to Metoprolol prn.
   Pseudoobstruction: unclear precipitant.  Could be due to underyling
   systemic process
   - Will keep patient on intermittent OGT suction
   - Serial repositioning in bed
   ARF: Increased BUN:Cr >20 that is suggestive of pre-renal etiology.
   - Hydrate with NS and trend electrolytes
   - Rate control for better forward flow
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2156-10-28**] 03:02 AM
   20 Gauge - [**2156-10-28**] 03:31 AM
   22 Gauge - [**2156-10-28**] 03:32 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ------ Protected Section ------
   Patient
s TnT returned at 0.28, decreased from admission level of 0.45.
   ------ Protected Section Addendum Entered By:[**Name (NI) 786**] [**Last Name (NamePattern1) 1806**], MD
   on:[**2156-10-28**] 11:25 ------

2156-10-29 05:33:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -afib w/ RVR, switched from dilt to metoprolol to amiodarone
   -on amiodarone, still RVR, given metoprolol 5mg IV X1.
   -troponins trending down
   -OSH records from [**Hospital1 959**] show patient has ischemic colonic stricture,
   has history of ileus in the past, along with afib w/ RVR
   -pain and palliative care consulted, will meet with family tomorrow at
   10am
   Allergies:
   Shellfish Derived
   Unknown;
   Peanut
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2156-10-29**] 04:10 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2156-10-28**] 08:11 AM
   Diltiazem - [**2156-10-28**] 08:45 AM
   Metoprolol - [**2156-10-28**] 11:19 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-10-29**] 05:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 35.9
C (96.6
   HR: 118 (79 - 131) bpm
   BP: 105/50(65) {80/40(56) - 113/74(85)} mmHg
   RR: 22 (19 - 26) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  6,618 mL
                                                                  1,189 mL
   PO:
             TF:
   IVF:
                                                                  5,618 mL
                                                                  1,189 mL
   Blood products:
   Total out:
                                                                  2,372 mL
                                                                    140 mL
   Urine:
                                                                  1,322 mL
                                                                    140 mL
   NG:
                                                                  1,050 mL
   Stool:
   Drains:
   Balance:
                                                                  4,246 mL
                                                                  1,049 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI: 103
   PIP: 18 cmH2O
   Plateau: 12 cmH2O
   Compliance: 78.6 cmH2O/mL
   SpO2: 100%
   ABG: ////
   Ve: 12.9 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   270 K/uL
   7.8 g/dL
   159 mg/dL
   1.9 mg/dL
   18 mEq/L
   4.3 mEq/L
   44 mg/dL
   113 mEq/L
   141 mEq/L
   25.8 %
   5.5 K/uL
        [image002.jpg]
                            [**2156-10-28**]  03:08 AM
                            [**2156-10-28**]  04:32 AM
                            [**2156-10-28**]  09:42 AM
                            [**2156-10-28**]  05:45 PM
                            [**2156-10-29**]  04:30 AM
   WBC
   7.8
   5.5
   Hct
   26.5
   25.8
   Plt
   366
   270
   Cr
   1.9
   TropT
   0.28
   0.26
   TCO2
   20
   Glucose
   159
   Other labs: PT / PTT / INR:25.8/41.2/2.6, CK / CKMB /
   Troponin-T:204/8/0.26, ALT / AST:24/21, Alk Phos / T Bili:113/0.3,
   Differential-Neuts:78.7 %, Lymph:16.7 %, Mono:4.3 %, Eos:0.1 %, Lactic
   Acid:3.1 mmol/L, LDH:152 IU/L, Ca++:6.7 mg/dL, Mg++:1.9 mg/dL, PO4:4.3
   mg/dL
   Assessment and Plan
   Assessment and Plan
   89M with urosepsis and atrial fibrillation with RVR
   Urosepsis: Septic physiology with tachycardia, tachypneia and
   leuckocytosis, with likely urine source
   - follow up culture data
   - Continue Zosyn
   - surveillance blood cultures
   - WBCs decreasing with treatment
   -  Urine less cloudy this am.
   Respiratory Failure: intubated for impending respiratory failure.
   Patient currently on AC.  Currently on minimal sedation and will lower
   sedation further to do a RSBI and if possible a SBT.
   CV:
   CAD: Patient with known CAD, although unclear history.  NSTEMI in
   setting of afib with RVR likely secondary to demand ischemia in setting
   of tachycardia and hypovolemia. Will hold BB as patient is currently on
   CCB. Does not appear that this is ACS.  Medical management at this
   point.  Will hold ASA given pseudoobstrucition
   PUMP: Unknown EF.  BNP > [**Numeric Identifier 1804**].  [**Month (only) 8**] be increased from increased
   preload and decreased CO given irregular rhythm.  This is not
   suggestive of CHF and clinical exam is not suggestive of CHF.  Patient
   likely hypovolemic, will aggressive hydrate.  ECHO when patient's rate
   has improved to assess for WMA.
   RHYTHM: afib with RVR, currently receiving Dilt boluses, but will
   change to Metoprolol prn.
   Pseudoobstruction: unclear precipitant.  Could be due to underyling
   systemic process
   - Will keep patient on intermittent OGT suction
   - Serial repositioning in bed
   ARF: Increased BUN:Cr >20 that is suggestive of pre-renal etiology.
   - Hydrate with NS and trend electrolytes
   - Rate control for better forward flow
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2156-10-28**] 03:02 AM
   20 Gauge - [**2156-10-28**] 03:31 AM
   22 Gauge - [**2156-10-28**] 03:32 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2156-10-28**] 03:02 AM
   20 Gauge - [**2156-10-28**] 03:31 AM
   22 Gauge - [**2156-10-28**] 03:32 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2156-10-30 07:37:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -afib w/ RVR (known prior), switched from dilt to metoprolol.
   discontinued and started on amiodarone
   -on amiodarone, still RVR, given metoprolol 5mg IV X2 overnight.
   -OSH records from [**Hospital1 959**] show patient has ischemic colonic stricture,
   KUB shows [**Last Name (un) 1917**]
   - trying PO medications via NGT
   -pain and palliative care consulted, remains full code for now
   - foley changed overnight as no record of catheter change was noted
   Allergies:
   Shellfish Derived
   Unknown;
   Peanut
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2156-10-30**] 03:51 AM
   Infusions:
   Fentanyl - 5 mcg/hour
   Midazolam (Versed) - 0.3 mg/hour
   Other ICU medications:
   Metoprolol - [**2156-10-29**] 06:32 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-10-30**] 07:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.3
C (97.3
   HR: 87 (83 - 123) bpm
   BP: 97/51(60) {91/42(54) - 116/78(85)} mmHg
   RR: 16 (13 - 29) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
             Total In:
                                                                  1,642 mL
                                                                    223 mL
   PO:
             TF:
   IVF:
                                                                  1,642 mL
                                                                    223 mL
   Blood products:
   Total out:
                                                                  1,305 mL
                                                                    310 mL
   Urine:
                                                                    855 mL
                                                                    310 mL
   NG:
                                                                    450 mL
   Stool:
   Drains:
   Balance:
                                                                    337 mL
                                                                    -87 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube, Other
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 563 (339 - 694) mL
   PS : 10 cmH2O
   RR (Set): 16
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 112
   PIP: 15 cmH2O
   Plateau: 13 cmH2O
   SpO2: 100%
   ABG: 7.41/24/149/12/-6
   Ve: 11.1 L/min
   PaO2 / FiO2: 373
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   431 K/uL
   10.5 g/dL
   70 mg/dL
   1.5 mg/dL
   12 mEq/L
   4.6 mEq/L
   39 mg/dL
   117 mEq/L
   142 mEq/L
   33.6 %
   7.6 K/uL
        [image002.jpg]
                            [**2156-10-28**]  03:08 AM
                            [**2156-10-28**]  04:32 AM
                            [**2156-10-28**]  09:42 AM
                            [**2156-10-28**]  05:45 PM
                            [**2156-10-29**]  04:30 AM
                            [**2156-10-29**]  07:56 AM
                            [**2156-10-29**]  03:46 PM
                            [**2156-10-29**]  10:19 PM
                            [**2156-10-30**]  04:11 AM
   WBC
   7.8
   5.5
   7.3
   7.6
   Hct
   26.5
   25.8
   31.3
   33.6
   Plt
   366
   270
   404
   431
   Cr
   1.9
   1.0
   1.6
   1.5
   TropT
   0.28
   0.26
   TCO2
   20
   17
   16
   Glucose
   159
   492
   94
   82
   79
   70
   Other labs: PT / PTT / INR:29.2/41.8/3.0, CK / CKMB /
   Troponin-T:204/8/0.26, ALT / AST:24/21, Alk Phos / T Bili:113/0.3,
   Differential-Neuts:77.4 %, Lymph:19.0 %, Mono:2.6 %, Eos:0.8 %, Lactic
   Acid:1.3 mmol/L, LDH:152 IU/L, Ca++:8.0 mg/dL, Mg++:2.4 mg/dL, PO4:4.1
   mg/dL
   Assessment and Plan
   89M with Proteus urosepsis on Zosyn and atrial fibrillation with RVR on
   Metoprolol
   Urosepsis: Septic physiology with tachycardia, tachypneia and
   leuckocytosis, with likely urine source
   - Prelim Culture showing Proteus.  Currently on Zosyn and will tailor
   when sensitivities return
   - surveillance blood cultures - NGTD
   Respiratory Failure: intubated for impending respiratory failure.  High
   RSBI this am.  Patient currently on light sedation.  Tachypnea thought
   to be due to underlying metabolic acidosis.  Will attempt to correct
   acidosis with bicarb prior to extubation.  -f/u lateral decub.
   CV:
   CAD: Patient with known CAD, although unclear history.  NSTEMI in
   setting of afib with RVR likely secondary to demand ischemia in setting
   of tachycardia and hypovolemia. Previously on dilt at OSH, will
   continue with BB.  IV until patient taking PO
   PUMP: Unknown EF.  BNP > [**Numeric Identifier 1804**].  [**Month (only) 8**] be increased from increased
   preload and decreased CO given irregular rhythm.  This is not
   suggestive of CHF and clinical exam is not suggestive of CHF.  Patient
   net fluid positive.
   RHYTHM: afib with RVR, currently loaded with amiodorone without
   significant effect.  Will continue to bolus with metoprolol IV until
   patient can take PO
   #Pseudoobstruction: unclear precipitant.  Per outside records, patient
   has history of this in the past, treated conservatively.
   - Will keep patient on intermittent OGT suction
   - Serial repositioning in bed
   - rectal exam to rule out low obstruction
   #Code: full. Follow-up with pain and palliative care recs. Discuss with
   daughter before extubating, and options of re-intubating.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2156-10-28**] 03:31 AM
   22 Gauge - [**2156-10-28**] 03:32 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2156-10-30 08:07:00 Physician Attending Progress Note
Chief Complaint:
   24 Hr events:  urine culture preliminary proteus. Afib with RVR
   received amiodarone dose not responsive.  Metoprolol 5mg iv x2 with
   response.  Foley changed.
   Allergies:
   Shellfish Derived
   Unknown;
   Peanut
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2156-10-30**] 03:51 AM
   Infusions:
   Fentanyl - 5 mcg/hour
   Midazolam (Versed) - 0.3 mg/hour
   Other ICU medications:
   Metoprolol - [**2156-10-29**] 06:32 PM
   Midazolam (Versed) - [**2156-10-30**] 07:45 AM
   Other medications:
   Coumadin held
   Lopressor 50mg [**Hospital1 **]
   Previcid
   125 na bicarb  D5.
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-10-30**] 08:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.3
C (97.3
   HR: 116 (74 - 123) bpm
   BP: 126/71(93) {91/42(54) - 126/78(93)} mmHg
   RR: 28 (13 - 29) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
             Total In:
                                                                  1,642 mL
                                                                    286 mL
   PO:
             TF:
   IVF:
                                                                  1,642 mL
                                                                    286 mL
   Blood products:
   Total out:
                                                                  1,305 mL
                                                                    450 mL
   Urine:
                                                                    855 mL
                                                                    450 mL
   NG:
                                                                    450 mL
   Stool:
   Drains:
   Balance:
                                                                    337 mL
                                                                   -164 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube, Other
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 563 (339 - 694) mL
   PS : 10 cmH2O
   RR (Set): 16
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 112
   PIP: 15 cmH2O
   Plateau: 13 cmH2O
   SpO2: 100%
   ABG: 7.41/24/149/12/-6
   Ve: 11.1 L/min
   PaO2 / FiO2: 373
   Physical Examination
   Gen:Intubated
   HEENT:PERRL, intubated
   Heart:[**Last Name (un) 1920**] [**Last Name (un) 1920**] s1s2 no m/r/g
   Lungs:CTA bilaterally
   Abd: hypoactive BS, soft, NT, mild distension
   Ext:1+ LE edema
   Labs / Radiology
   10.5 g/dL
   431 K/uL
   70 mg/dL
   1.5 mg/dL
   12 mEq/L
   4.6 mEq/L
   39 mg/dL
   117 mEq/L
   142 mEq/L
   33.6 %
   7.6 K/uL
        [image002.jpg]
                            [**2156-10-28**]  03:08 AM
                            [**2156-10-28**]  04:32 AM
                            [**2156-10-28**]  09:42 AM
                            [**2156-10-28**]  05:45 PM
                            [**2156-10-29**]  04:30 AM
                            [**2156-10-29**]  07:56 AM
                            [**2156-10-29**]  03:46 PM
                            [**2156-10-29**]  10:19 PM
                            [**2156-10-30**]  04:11 AM
   WBC
   7.8
   5.5
   7.3
   7.6
   Hct
   26.5
   25.8
   31.3
   33.6
   Plt
   366
   270
   404
   431
   Cr
   1.9
   1.0
   1.6
   1.5
   TropT
   0.28
   0.26
   TCO2
   20
   17
   16
   Glucose
   159
   492
   94
   82
   79
   70
   Other labs: PT / PTT / INR:29.2/41.8/3.0, CK / CKMB /
   Troponin-T:204/8/0.26, ALT / AST:24/21, Alk Phos / T Bili:113/0.3,
   Differential-Neuts:77.4 %, Lymph:19.0 %, Mono:2.6 %, Eos:0.8 %, Lactic
   Acid:1.3 mmol/L, LDH:152 IU/L, Ca++:8.0 mg/dL, Mg++:2.4 mg/dL, PO4:4.1
   mg/dL
   Assessment and Plan
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with their
   note, including the assessment and plan. I would emphasize and add the
   following points:
   89M retired surgeon a-fib, progressive dementia, COPD, CAD dev
   worsening resp distress at NH, brought to ER from NH by EMS -- HR
   130
s, RR 50
s, U/A showed UTI.
   Sepsis
   -Presumed secondary to UTI with proteus growing here.  Will follow up
   sensitivites and [**Location (un) 1921**] antibiotics.
   -IVF boluses as required will use LR
   Resp failure
   -sec sepsis, met acidosis w/ inc vent demands
   -begin wean vent as long as hemodyn stable
   -if does well
 SBT
   -When HCO3 close to 18 , will wean sedation and assess ability to
   protect airway prior to extubation.
   +Trop/nl CK
   - Typical in septic picture
   -ASA, enzymes
   -Follow ECG
   Afib with RVR:
   -IV lopressor for rate control prn can increase to tid if needed.
   Acute renal failure:
   -suspect prerenal in nature
   -creat trending downward w/ fluid resuscitation
   -Non-gap acidosis.
   -Will check urine lytes for RTA
   -Continue bicarb for now
   Colonic ileus:
   -Repeat KUB to assure colon hasn
t dilated further.
   -Consider CT if bowel gas decreases or increased distension.
   -Will check rectal exam
   -Will start bowel regimen with senna, biscodyl PR and consider reglan
   if QTc wnl.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2156-10-28**] 03:31 AM
   22 Gauge - [**2156-10-28**] 03:32 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition :
   Total time spent:  35 minutes

2156-10-31 07:23:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2156-10-31**] 03:00 AM
 INVASIVE VENTILATION - START [**2156-10-31**] 03:01 AM
   1.       KUB: interval improvement of transverse colon dilatation
   2.       Metoprolol increased to tid
   3.       Lytes s/p Bicarb infusion: 20
   4.       Urine lytes: consistent with possible Type I RTA, started on
   Sodium Bicarb 650 tid
   5.       Rectal Exam: not done.
   6.       Culture results: Proteus Mirabilis
   7.       Sedation weaned to boluses
   8.       Currently on SBT this am
   Allergies:
   Shellfish Derived
   Unknown;
   Peanut
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2156-10-31**] 04:00 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2156-10-30**] 05:18 PM
   Midazolam (Versed) - [**2156-10-30**] 05:19 PM
   Metoprolol - [**2156-10-31**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-10-31**] 07:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36
C (96.8
   Tcurrent: 35.8
C (96.4
   HR: 105 (80 - 116) bpm
   BP: 85/60(73) {85/43(58) - 126/87(93)} mmHg
   RR: 29 (13 - 31) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
             Total In:
                                                                  1,263 mL
                                                                     50 mL
   PO:
             TF:
   IVF:
                                                                  1,263 mL
                                                                     50 mL
   Blood products:
   Total out:
                                                                  1,095 mL
                                                                    250 mL
   Urine:
                                                                  1,095 mL
                                                                    250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    168 mL
                                                                   -200 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 470 (418 - 588) mL
   PS : 5 cmH2O
   RR (Spontaneous): 24
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 80
   PIP: 15 cmH2O
   SpO2: 100%
   ABG: ///20/
   Ve: 13.4 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   372 K/uL
   9.3 g/dL
   104 mg/dL
   1.4 mg/dL
   20 mEq/L
   3.9 mEq/L
   34 mg/dL
   114 mEq/L
   144 mEq/L
   29.7 %
   5.8 K/uL
        [image002.jpg]
                            [**2156-10-28**]  04:32 AM
                            [**2156-10-28**]  09:42 AM
                            [**2156-10-28**]  05:45 PM
                            [**2156-10-29**]  04:30 AM
                            [**2156-10-29**]  07:56 AM
                            [**2156-10-29**]  03:46 PM
                            [**2156-10-29**]  10:19 PM
                            [**2156-10-30**]  04:11 AM
                            [**2156-10-30**]  03:41 PM
                            [**2156-10-31**]  05:26 AM
   WBC
   5.5
   7.3
   7.6
   5.8
   Hct
   25.8
   31.3
   33.6
   29.7
   Plt
   [**Telephone/Fax (3) 1930**]72
   Cr
   1.0
   1.6
   1.5
   1.5
   1.4
   TropT
   0.28
   0.26
   TCO2
   20
   17
   16
   Glucose
   492
   94
   82
   79
   70
   136
   104
   Other labs: PT / PTT / INR:33.5/46.1/3.5, CK / CKMB /
   Troponin-T:204/8/0.26, ALT / AST:19/22, Alk Phos / T Bili:108/0.5,
   Differential-Neuts:77.4 %, Lymph:19.0 %, Mono:2.6 %, Eos:0.8 %, Lactic
   Acid:1.3 mmol/L, LDH:152 IU/L, Ca++:7.4 mg/dL, Mg++:2.2 mg/dL, PO4:3.5
   mg/dL
   Assessment and Plan
   Assessment and Plan
   89M with Proteus urosepsis on Zosyn and atrial fibrillation with RVR on
   Metoprolol
   #Urosepsis: Septic physiology with tachycardia, tachypneia and
   leuckocytosis, with likely urine source
   - Prelim Culture showing Proteus.  Currently on Zosyn and will tailor
   when sensitivities return
   - surveillance blood cultures - NGTD
   #Respiratory Failure: intubated on admission for impending respiratory
   failure.  Extubated [**10-31**]. tachypnea secondary to metabolic acidosis.
   Will attempt to correct acidosis with bicarb prior to extubation.
   -f/u lateral decub.
   CV:
   CAD: Patient with known CAD, although unclear history.  NSTEMI in
   setting of afib with RVR likely secondary to demand ischemia in setting
   of tachycardia and hypovolemia. Previously on dilt at OSH, will
   continue with BB.  IV until patient taking PO
   PUMP: Unknown EF.  BNP > [**Numeric Identifier 1804**].  [**Month (only) 8**] be increased from increased
   preload and decreased CO given irregular rhythm.  This is not
   suggestive of CHF and clinical exam is not suggestive of CHF.  Patient
   net fluid positive.
   RHYTHM: afib with RVR, currently loaded with amiodorone without
   significant effect.  Will continue to bolus with metoprolol IV until
   patient can take PO, and then switch to lopressor 50mg Po tid.
   #Pseudoobstruction: unclear precipitant.  Per outside records, patient
   has history of this in the past, treated conservatively.
   - NGT removed [**10-31**].
   - Serial repositioning in bed
   - rectal exam to rule out low obstruction
   -added colace and dulcolax
   #Code: full. Follow-up with pain and palliative care recs. Discuss with
   daughter before extubating, and options of re-intubating.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2156-10-28**] 03:31 AM
   22 Gauge - [**2156-10-28**] 03:32 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2156-10-28**] 03:32 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2156-10-31 08:29:00 Physician Attending Progress Note
Chief Complaint:
   24 Hour Events: KUB improved dilation of transverse colon, Urine lytes
   sig for Type I RTA started on NaBicarb.  Lopressor increased to 50mg
   tid.  No bowel movement.
 INVASIVE VENTILATION - STOP [**2156-10-31**] 03:00 AM
 INVASIVE VENTILATION - START [**2156-10-31**] 03:01 AM
   Allergies:
   Shellfish Derived
   Unknown;
   Peanut
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2156-10-31**] 04:00 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2156-10-30**] 05:18 PM
   Midazolam (Versed) - [**2156-10-30**] 05:19 PM
   Metoprolol - [**2156-10-31**] 12:00 AM
   Other medications:
   Coumadin held
   Lopressor 50mg tid
   Prevacid
   Na Bicarb 650mg tid
   Senna
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-10-31**] 08:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36
C (96.8
   Tcurrent: 35.7
C (96.3
   HR: 112 (80 - 119) bpm
   BP: 105/47(60) {85/43(58) - 126/87(86)} mmHg
   RR: 28 (13 - 38) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
             Total In:
                                                                  1,263 mL
                                                                     50 mL
   PO:
             TF:
   IVF:
                                                                  1,263 mL
                                                                     50 mL
   Blood products:
   Total out:
                                                                  1,095 mL
                                                                    310 mL
   Urine:
                                                                  1,095 mL
                                                                    310 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    168 mL
                                                                   -260 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 368 (368 - 588) mL
   PS : 5 cmH2O
   RR (Spontaneous): 32
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 80
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///20/
   Ve: 12.7 L/min
   Physical Examination
   Gen:Intubated
   HEENT:PERRL, extubated
   Heart:[**Last Name (un) 1920**] [**Last Name (un) 1920**] s1s2 no m/r/g
   Lungs:CTA bilaterally
   Abd: hypoactive BS, soft, NT, distension improved.
   Ext:1+ LE edema
   Labs / Radiology
   9.3 g/dL
   372 K/uL
   104 mg/dL
   1.4 mg/dL
   20 mEq/L
   3.9 mEq/L
   34 mg/dL
   114 mEq/L
   144 mEq/L
   29.7 %
   5.8 K/uL
        [image002.jpg]
                            [**2156-10-28**]  04:32 AM
                            [**2156-10-28**]  09:42 AM
                            [**2156-10-28**]  05:45 PM
                            [**2156-10-29**]  04:30 AM
                            [**2156-10-29**]  07:56 AM
                            [**2156-10-29**]  03:46 PM
                            [**2156-10-29**]  10:19 PM
                            [**2156-10-30**]  04:11 AM
                            [**2156-10-30**]  03:41 PM
                            [**2156-10-31**]  05:26 AM
   WBC
   5.5
   7.3
   7.6
   5.8
   Hct
   25.8
   31.3
   33.6
   29.7
   Plt
   [**Telephone/Fax (3) 1930**]72
   Cr
   1.0
   1.6
   1.5
   1.5
   1.4
   TropT
   0.28
   0.26
   TCO2
   20
   17
   16
   Glucose
   492
   94
   82
   79
   70
   136
   104
   Other labs: PT / PTT / INR:33.5/46.1/3.5, CK / CKMB /
   Troponin-T:204/8/0.26, ALT / AST:19/22, Alk Phos / T Bili:108/0.5,
   Differential-Neuts:77.4 %, Lymph:19.0 %, Mono:2.6 %, Eos:0.8 %, Lactic
   Acid:1.3 mmol/L, LDH:152 IU/L, Ca++:7.4 mg/dL, Mg++:2.2 mg/dL, PO4:3.5
   mg/dL
   Assessment and Plan
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with their
   note, including the assessment and plan. I would emphasize and add the
   following points:
   89M retired surgeon a-fib, progressive dementia, COPD, CAD dev
   worsening resp distress at NH, brought to ER from NH by EMS -- HR
   130
s, RR 50
s, U/A showed UTI with Proteus [**Doctor Last Name **] pending.
   Sepsis
   -Presumed secondary to UTI with proteus growing here.  Will follow up
   sensitivites and [**Location (un) 1921**] antibiotics.
   -IVF boluses as required will use LR
   Resp failure
   -sec sepsis and met acidosis from type I RTA  w/ inc vent demands
   -Extubated doing well
   +Trop/nl CK
   - Typical in septic picture
   -ASA, enzymes
   -Follow ECG
   Afib with RVR:
   -Continue lopressor, continue to hold coumadin for elevated level
   suspect secondary to antibiotics.
   Acute renal failure:
   -suspect prerenal in nature
   -creat trending downward w/ fluid resuscitation
   -Non-gap acidosis.
   -  lytes consistent with Type I RTA
   -Continue bicarb for now
   Colonic ileus:
   -Repeat KUB improved.
   -Will check rectal exam.
   -Will start bowel regimen with senna and biscodyl PR and consider
   reglan if QTc wnl.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2156-10-28**] 03:32 AM
   Prophylaxis:
   DVT: Coumadin on hold
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status:  Full
   Disposition :ICU
   Total time spent: 35 min

2156-11-01 08:02:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2156-10-31**] 08:48 AM
   -extubated
   -had PIV placed
   -discontinued zosyn, switched to ceftriaxone, proteus sensitive to
   ceftriaxone
   -taking PO medications
   -run of VT
   Allergies:
   Shellfish Derived
   Unknown;
   Peanut
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2156-10-31**] 12:00 PM
   Ceftriaxone - [**2156-10-31**] 06:00 PM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2156-11-1**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-11-1**] 08:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.6
C (97.8
   HR: 90 (75 - 118) bpm
   BP: 105/70(77) {84/42(54) - 121/85(94)} mmHg
   RR: 27 (24 - 35) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
             Total In:
                                                                  1,376 mL
                                                                    230 mL
   PO:
             TF:
   IVF:
                                                                  1,376 mL
                                                                    230 mL
   Blood products:
   Total out:
                                                                  1,020 mL
                                                                    500 mL
   Urine:
                                                                  1,020 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    356 mL
                                                                   -270 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///17/
   Physical Examination
   General Appearance: Thin
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   380 K/uL
   8.9 g/dL
   85 mg/dL
   1.1 mg/dL
   17 mEq/L
   3.5 mEq/L
   26 mg/dL
   120 mEq/L
   147 mEq/L
   26.4 %
   5.6 K/uL
        [image002.jpg]
                            [**2156-10-28**]  09:42 AM
                            [**2156-10-28**]  05:45 PM
                            [**2156-10-29**]  04:30 AM
                            [**2156-10-29**]  07:56 AM
                            [**2156-10-29**]  03:46 PM
                            [**2156-10-29**]  10:19 PM
                            [**2156-10-30**]  04:11 AM
                            [**2156-10-30**]  03:41 PM
                            [**2156-10-31**]  05:26 AM
                            [**2156-11-1**]  04:11 AM
   WBC
   5.5
   7.3
   7.6
   5.8
   5.6
   Hct
   25.8
   31.3
   33.6
   29.7
   26.4
   Plt
   [**Telephone/Fax (3) 1930**]72
   380
   Cr
   1.0
   1.6
   1.5
   1.5
   1.4
   1.1
   TropT
   0.28
   0.26
   TCO2
   17
   16
   Glucose
   492
   94
   82
   79
   70
   136
   104
   85
   Other labs: PT / PTT / INR:34.4/48.2/3.6, CK / CKMB /
   Troponin-T:204/8/0.26, ALT / AST:19/22, Alk Phos / T Bili:108/0.5,
   Differential-Neuts:77.4 %, Lymph:19.0 %, Mono:2.6 %, Eos:0.8 %, Lactic
   Acid:1.3 mmol/L, LDH:152 IU/L, Ca++:7.2 mg/dL, Mg++:2.1 mg/dL, PO4:3.0
   mg/dL
   Imaging: [**10-30**] KUB
   The dilation of the transverse colon has decreased slightly since the
   prior
   study, however, remains dilated. There is a stent seen in the region of
   the
   hepatic flexure. There is a nasogastric tube with tip and sideport are
   just
   below the gastroesophageal junction, unchanged
   Microbiology: URINE [**2156-10-28**] 5:27 pm
     PROTEUS MIRABILIS
                                |
   AMPICILLIN------------  =>32 R
   AMPICILLIN/SULBACTAM--    16 I
   CEFAZOLIN-------------  =>64 R
   CEFEPIME--------------   <=1 S
   CEFTAZIDIME-----------   <=1 S
   CEFTRIAXONE-----------   <=1 S
   CEFUROXIME------------     4 S
   CIPROFLOXACIN---------   =>4 R
   GENTAMICIN------------  =>16 R
   MEROPENEM-------------<=0.25 S
   PIPERACILLIN----------    16 S
   PIPERACILLIN/TAZO-----   <=4 S
   TOBRAMYCIN------------     4 S
   TRIMETHOPRIM/SULFA----  =>16 R
   Assessment and Plan
   89M with Proteus urosepsis on Zosyn and atrial fibrillation with RVR on
   Metoprolol
   #Urosepsis: Septic physiology with tachycardia, tachypneia and
   leuckocytosis, with likely urine source
   - Prelim Culture showing Proteus.  Currently on Zosyn and will tailor
   when sensitivities return
   - surveillance blood cultures - NGTD
   #Respiratory Failure: intubated on admission for impending respiratory
   failure.  Extubated [**10-31**]. tachypnea secondary to metabolic acidosis.
   Will attempt to correct acidosis with bicarb prior to extubation.
   -f/u lateral decub.
   CV:
   CAD: Patient with known CAD, although unclear history.  NSTEMI in
   setting of afib with RVR likely secondary to demand ischemia in setting
   of tachycardia and hypovolemia. Previously on dilt at OSH, will
   continue with BB.  IV until patient taking PO
   PUMP: Unknown EF.  BNP > [**Numeric Identifier 1804**].  [**Month (only) 8**] be increased from increased
   preload and decreased CO given irregular rhythm.  This is not
   suggestive of CHF and clinical exam is not suggestive of CHF.  Patient
   net fluid positive.
   RHYTHM: afib with RVR, currently loaded with amiodorone without
   significant effect.  Will continue to bolus with metoprolol IV until
   patient can take PO, and then switch to lopressor 50mg Po tid.
   #Pseudoobstruction: unclear precipitant.  Per outside records, patient
   has history of this in the past, treated conservatively.
   - NGT removed [**10-31**].
   - Serial repositioning in bed
   - rectal exam to rule out low obstruction
   -added colace and dulcolax
   #Code: full. Follow-up with pain and palliative care recs. Discuss with
   daughter before extubating, and options of re-intubating.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2156-10-31**] 04:59 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2156-11-02 08:04:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Called back in for low urine output, relative hypotension
   - Af with [**Name (NI) 1978**] to 150s-160s, responded with IV lopressor, and his usual
   dose of PO lopressor (held for low BP)
   - Continued on ceftriaxone
   Allergies:
   Shellfish Derived
   Unknown;
   Peanut
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2156-10-31**] 12:00 PM
   Ceftriaxone - [**2156-11-1**] 06:00 PM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2156-11-2**] 04:14 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-11-2**] 08:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.6
   HR: 88 (83 - 127) bpm
   BP: 84/47(57) {83/47(57) - 115/74(84)} mmHg
   RR: 28 (19 - 32) insp/min
   SpO2: 96%
   Heart rhythm: SVT (Supra Ventricular Tachycardia)
   Height: 70 Inch
             Total In:
                                                                  2,644 mL
                                                                  1,802 mL
   PO:
                                                                     80 mL
             TF:
   IVF:
                                                                  2,564 mL
                                                                  1,802 mL
   Blood products:
   Total out:
                                                                    940 mL
                                                                    390 mL
   Urine:
                                                                    940 mL
                                                                    390 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,704 mL
                                                                  1,412 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///18/
   Physical Examination
   General Appearance: No acute distress, Thin
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic),
   Afib
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   380 K/uL
   10.1 g/dL
   112 mg/dL
   1.1 mg/dL
   18 mEq/L
   4.5 mEq/L
   19 mg/dL
   120 mEq/L
   146 mEq/L
   30.9 %
   5.3 K/uL
        [image002.jpg]
                            [**2156-10-28**]  05:45 PM
                            [**2156-10-29**]  04:30 AM
                            [**2156-10-29**]  07:56 AM
                            [**2156-10-29**]  03:46 PM
                            [**2156-10-29**]  10:19 PM
                            [**2156-10-30**]  04:11 AM
                            [**2156-10-30**]  03:41 PM
                            [**2156-10-31**]  05:26 AM
                            [**2156-11-1**]  04:11 AM
                            [**2156-11-2**]  02:50 AM
   WBC
   5.5
   7.3
   7.6
   5.8
   5.6
   5.3
   Hct
   25.8
   31.3
   33.6
   29.7
   26.4
   30.9
   Plt
   [**Telephone/Fax (3) 1930**]72
   380
   380
   Cr
   1.0
   1.6
   1.5
   1.5
   1.4
   1.1
   1.1
   TropT
   0.26
   TCO2
   17
   16
   Glucose
   492
   94
   82
   79
   70
   136
   104
   85
   112
   Other labs: PT / PTT / INR:33.4/40.8/3.5, CK / CKMB /
   Troponin-T:204/8/0.26, ALT / AST:19/22, Alk Phos / T Bili:108/0.5,
   Differential-Neuts:77.4 %, Lymph:19.0 %, Mono:2.6 %, Eos:0.8 %, Lactic
   Acid:1.3 mmol/L, LDH:152 IU/L, Ca++:7.5 mg/dL, Mg++:2.1 mg/dL, PO4:2.2
   mg/dL
   Assessment and Plan
   89M with Proteus urosepsis on Ceftriaxone and atrial fibrillation with
   [**Telephone/Fax (3) 1978**] on Metoprolol
   #Proteus Urinary Tract Infection:
   - Growing proteus, sensitive to ceftriaxone, so will change to
   ceftriaxone for 14 day course
   - surveillance blood cultures - NGTD
   #Sepsis
   - Resolved. Hypotension likely baseline/or related to ongoing need for
   maintenance volume
   #Respiratory Failure: intubated on admission for impending respiratory
   failure.  Extubated [**10-31**]. tachypnea secondary to metabolic acidosis.
   - Doing well on room air / resolved
   AFib: controlling with CAD: PO Lopressor cont 75mg PO TID; can consider
   digoxin for better rate control if needed.
   Type I RTA: PO bicarbonate solution
    Hyperchloremic Metabolic Acidosis
   -          Switched back to NaBicarb
   -          Bolus with LR for now as needed
   #Pseudoobstruction: unclear precipitant.  Per outside records, patient
   has history of this in the past, treated conservatively.
   - Improved, passing stool more consistently.
   #Code: full. Follow-up with pain and palliative care recs. Discuss with
   daughter before extubating, and options of re-intubating.
   ICU Care
   Nutrition: Speech and Swallow repeat tomorrow
   Lines:
   20 Gauge - [**2156-10-31**] 04:59 PM
   Prophylaxis:
   DVT: INR still supratherapeutic
   Stress ulcer: PPI
   Code status:  FULL
   Disposition: Call Out

2156-11-02 10:36:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: Sepsis secondary to Proteus UTI
   I saw and examined the patient, and was physically present with the ICU
   Residents for key portions of the services provided.  I agree with his
   / her note above, including assessment and plan.
   24 Hour Events:
   - held in ICU for transient hypotension and low urine output
   - Afib w/ RVR 150-160s
 treated w/ IV lopressor w/ good result
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   Shellfish Derived
   Unknown;
   Peanut
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2156-10-31**] 12:00 PM
   Ceftriaxone - [**2156-11-1**] 06:00 PM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2156-11-2**] 04:14 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-11-2**] 10:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.2
C (98.9
   HR: 91 (83 - 127) bpm
   BP: 100/51(62) {83/47(57) - 115/74(84)} mmHg
   RR: 28 (19 - 32) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
             Total In:
                                                                  2,645 mL
                                                                  1,880 mL
   PO:
                                                                     80 mL
             TF:
   IVF:
                                                                  2,565 mL
                                                                  1,880 mL
   Blood products:
   Total out:
                                                                    940 mL
                                                                    620 mL
   Urine:
                                                                    940 mL
                                                                    620 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,705 mL
                                                                  1,260 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///18/
   Physical Examination
   Neuro: Alert, responds to questions.  Oriented to self, place.
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Lungs: rales in bases improve w/ cough otherwise clear
   CV: Irreg Irreg
   Abd: soft NTND BS+
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.1 g/dL
   380 K/uL
   112 mg/dL
   1.1 mg/dL
   18 mEq/L
   4.5 mEq/L
   19 mg/dL
   120 mEq/L
   146 mEq/L
   30.9 %
   5.3 K/uL
        [image002.jpg]
                            [**2156-10-28**]  05:45 PM
                            [**2156-10-29**]  04:30 AM
                            [**2156-10-29**]  07:56 AM
                            [**2156-10-29**]  03:46 PM
                            [**2156-10-29**]  10:19 PM
                            [**2156-10-30**]  04:11 AM
                            [**2156-10-30**]  03:41 PM
                            [**2156-10-31**]  05:26 AM
                            [**2156-11-1**]  04:11 AM
                            [**2156-11-2**]  02:50 AM
   WBC
   5.5
   7.3
   7.6
   5.8
   5.6
   5.3
   Hct
   25.8
   31.3
   33.6
   29.7
   26.4
   30.9
   Plt
   [**Telephone/Fax (3) 1930**]72
   380
   380
   Cr
   1.0
   1.6
   1.5
   1.5
   1.4
   1.1
   1.1
   TropT
   0.26
   TCO2
   17
   16
   Glucose
   492
   94
   82
   79
   70
   136
   104
   85
   112
   Other labs: PT / PTT / INR:33.4/40.8/3.5, CK / CKMB /
   Troponin-T:204/8/0.26, ALT / AST:19/22, Alk Phos / T Bili:108/0.5,
   Differential-Neuts:77.4 %, Lymph:19.0 %, Mono:2.6 %, Eos:0.8 %, Lactic
   Acid:1.3 mmol/L, LDH:152 IU/L, Ca++:7.5 mg/dL, Mg++:2.1 mg/dL, PO4:2.2
   mg/dL
   Assessment and Plan
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with their
   note, including the assessment and plan. I would emphasize and add the
   following points:
   89M retired surgeon a-fib, progressive dementia, COPD, CAD dev
   worsening resp distress at NH, brought to ER from NH by EMS -- HR
   130
s, RR 50
s, U/A showed UTI with Proteus [**Doctor Last Name **] pending.  Extubated
   successfully on [**10-31**].
   Sepsis
   -Presumed secondary to UTI - proteus growing out
   -Cont CTX
   -IVF boluses as required will use LR
   Resp failure
   -Extubated doing well
   +Trop/nl CK
   - Typical in septic picture
   - ASA, enzymes
   - Follow ECG
   Afib with RVR:
   -Continue lopressor
   - continue to hold coumadin for elevated level suspect secondary to
   antibiotics.
   Acute renal failure:
   -suspect prerenal in nature
   -creat improved to baseline with fluid resuscitation
   Non-gap acidosis c/w type I RTA
   -Continue bicarb
   Colonic ileus/pseudoobstruction:
   -Resolving
   -Repeat KUB improved.
   -Bowel regimen started
   Nutrition
   -failed S&S - failed - NPO for now
   -reassess as sedation clears
   ICU Care
   Nutrition:
   Glycemic Control:  Insulin infusion
   Lines:
   20 Gauge - [**2156-10-31**] 04:59 PM
   Prophylaxis:
   DVT: (supratherapeutic INR)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: